US08314088B2
tert-butyl 2-methyl-3-[methyl(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate
A mixture of tert-butyl 2-bromo-3-[methyl(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate (200 mg), methylboronic acid (119 mg), tetrakis(triphenylphosphine)palladium(0) (58 mg), tripotassium phosphate (423 mg) and DME (3 mL) was stirred under an argon atmosphere at 90° C. for 16 hr. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent gradient: 3→40% ethyl acetate/hexane) to give the title compound (109 mg, 65%) as a pale-yellow oil.

reactant | tert-butyl 2-bromo-3-[methyl(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate | 200 mg | BrC=1C(=NC2=C(CN(CCO2)C(=O)OC(C)(C)C)N1)N(C(C)C)C | C16H25BrN4O3
reactant | methylboronic acid | 119 mg | CB(O)O | CH5BO2
reactant | tripotassium phosphate | 423 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | DME | 3 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
product | tert-butyl 2-methyl-3-[methyl(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate | 109 mg, 65% | CC=1C(=NC2=C(CN(CCO2)C(=O)OC(C)(C)C)N1)N(C(C)C)C | C17H28N4O3
